Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Septic shock
 
Major Surgical or Invasive Procedure:
Arterial line
 
History of Present Illness:
___ year old Caucasian male with past medical history of 
hepatitis C (previously treated with Harvoni which was 
interrupted because the patient lost his insurance), Hx of 
cirrhosis, known varices s/p TIPS, coagulopathy, pancytopenia, 
hepatic encephalopathy, history of multifocal metastatic HCC 
with known metastases to the left adrenal gland s/p RFA on 
___ to ___ lesion, RFA on ___ to the Left adrenal 
met, s/p 2 cycles of chemotherapy with failure of treatment 
followed at the ___ ___, bipolar disorder, ADHD, 
GERD, asthma/COPD, ___ esophagus, alcohol abuse, who 
presents as a transfer from ___ for septic shock.

The patient has been in the MICU at ___ since ___ when 
he was brought in by EMS after he was found down, unresponsive 
and hypoxic with oxygen saturations in the ___ at his SNF. He 
was intubated for hypoxic respiratory failure and required 
maximal pressor support. He was found to have ___ blood cultures 
grew Klebsiella Aerogenes and was treated for septic shock with 
broad spectrum antibiotics, then narrowed to ceftriaxone (Day 
#8). Also found to have large pleural effusion with compressive 
consolidation versus atelectasis, felt to be ___ to malignant 
effusion. Additionally, his course has been complicated by IVC 
thrombus, not on anticoagulation due to thrombocytopenia and 
coagulaopathy, a.fib/a.flutter s/p amiodarone bolus now on 
metoprolol, acute renal failure ___ to septic shock and ATN on 
dialysis (still 22L up LOS), worsening liver failure and HE ___ 
to metastatic HCC and decrease rifaxmin and lactulose intake, 
epistaxis, and most recently (___) concern for GI bleeding 
(black coffee-ground GI contents), now on octreotide and 
protonix.

Notably, the patient is followed at ___ for his metastatic HCC 
and per discharge summary, there is no further treatment 
available for his cancer. ___ discussion have been ongoing 
healthcare proxy ___ and next of kin daughter. Per ___ 
___ record, ethics has been consulted regarding the 
competency of his brother as the health care proxy. 

 
Past Medical History:
1. History of liver cancer, status post liver ablation with mets 
to the left adrenal gland,
    status post prior treatment with Nexavar in ___ and 
subsequent treatment with
    Opdivo.  Treatment discontinued due to intolerance.
2. History of liver cirrhosis.
3. Hepatic encephalopathy.
4. Known portal hypertension.
5. Esophageal varices, status post TIPS procedure.
6. Chronic anemia.
7. Schizophrenia.
8. Seizure disorder.
9. COPD.
10.History of prior drug use
 
Social History:
___
Family History:
No known family history of liver disease
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
=========================
VITALS: Reviewed in metavision  
GENERAL: sedated, gross anasarca, 
HEENT: L Sclera with hemorrhage, right icteric, sluggish pupils
NECK: Right IJ, left HD line both without erythema  
LUNGS: Rhonchi diffusel
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, distended, minimal bowel sounds present
EXT: Warm, 
SKIN:  weeping, multiple skin tears  
NEURO: RASS-5, sluggish pupil response 

 
Pertinent Results:
ADMISSION LABS
=================
___ 03:26PM BLOOD WBC-8.4 RBC-2.65* Hgb-8.9* Hct-26.2* 
MCV-99* MCH-33.6* MCHC-34.0 RDW-20.9* RDWSD-71.4* Plt Ct-36*
___ 03:26PM BLOOD Neuts-88.2* Lymphs-5.5* Monos-5.2 
Eos-0.2* Baso-0.2 NRBC-0.6* Im ___ AbsNeut-7.41* 
AbsLymp-0.46* AbsMono-0.44 AbsEos-0.02* AbsBaso-0.02
___ 03:26PM BLOOD ___ PTT-40.7* ___
___ 03:26PM BLOOD Plt Ct-36*
___ 03:26PM BLOOD Fibrino-95* ___
___ 03:26PM BLOOD Glucose-141* UreaN-22* Creat-2.1*# 
Na-127* K-4.5 Cl-94* HCO3-19* AnGap-22*
___ 03:26PM BLOOD ALT-199* AST-1105* LD(LDH)-715* 
TotBili-11.3*
___ 03:26PM BLOOD Albumin-3.2* Calcium-9.2 Phos-5.8* Mg-2.0 
UricAcd-7.7*
___ 03:26PM BLOOD Hapto-<10*
___ 03:26PM BLOOD Triglyc-415*
___ 03:37PM BLOOD ___ pO2-53* pCO2-50* pH-7.25* 
calTCO2-23 Base XS--5
___ 03:37PM BLOOD Lactate-6.6*
___ 03:37PM BLOOD O2 Sat-80
___ 03:37PM BLOOD freeCa-1.12

PERTINENT INTERVAL LABS
======================
___ 10:07PM BLOOD Lactate-9.0* K-5.5*
___ 08:37AM BLOOD Glucose-109* Lactate-11.1*
___ 10:58AM BLOOD Glucose-46* Lactate-13.2*
___ 04:19AM BLOOD ALT-439* AST-2481* AlkPhos-158* 
TotBili-13.3*

IMAGING
========
___ CXR

IMPRESSION: 
 
The tip of the endotracheal tube projects over the midthoracic 
trachea.

___ KUB

IMPRESSION: 
 
No evidence of obstruction.  There is paucity of air within the 
small large
bowel.
 
___ RUQUS

IMPRESSION:
 
1. Cirrhotic liver morphology with a stable known solid hepatic 
lesion which
was previously characterized by CT on ___.
2. Patent TIPS with stable velocities ranging between 127 
centimeters/second
and 222 centimeters/second.
3. Images of the IVC demonstrate a patent vessel with 
wall-to-wall flow on
color Doppler imaging and low level echoes which is felt to 
represent image artifact.
4. A large heterogeneous solid mass is re-demonstrated within 
the left upper
quadrant, compatible with known metastatic disease to the left 
adrenal gland.
5. Cholelithiasis.
6. Splenomegaly.  Small volume ascites.  Large right pleural 
effusion.

___ TTE
___, the right ventricle is now dilated (with moderate 
pulmonary hypertension) and the left ventricle is hyperdynamic.

MICROBIOLOGY
================
___ 10:28 am SPUTUM      Source: Endotracheal. 

   GRAM STAIN (Final ___: 
      <10 PMNs and <10 epithelial cells/100X field. 
      3+  ___ per 1000X FIELD):   BUDDING YEAST WITH 
PSEUDOHYPHAE. 
      QUALITY OF SPECIMEN CANNOT BE ASSESSED. 

   RESPIRATORY CULTURE (Preliminary): 
      Further incubation required to determine the presence or 
absence of
      commensal respiratory flora. 
      YEAST.    MODERATE GROWTH. 

   LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED. 

   FUNGAL CULTURE (Preliminary): 

___ 11:48 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
Ms. ___ is a ___ YO male with a history of metastatic HCC 
without further treatment options, presenting as a transfer from 
___ after a 10 day ICU stay for further management of 
sepsis, renal failure on CRRT, liver failure, and concern for 
DIC. Despite aggressive care with antibiotics, stress dose 
steroids, pressors, and CRRT, he continued to decompensate. On 
___, he lost a pulse with daughter at bedside who declined CPR 
and he died. His family declined an autopsy.

#Shock 
#Klebsiella bacteremia
Overall picture most consistent with distributive shock, as he 
was warm and CVO2 was 80. Less like cardiogenic or obstructive. 
He did have a positive culture for Klebsiella, but has been on 
adequate treatment based on sensitivities. Concern for new 
resistant infection, potentially VAP vs GI source i/s/o liver 
failure. Also could be vasodilation from liver failure leading 
to distributive shock picture. Does have known mets to adrenal 
glands so adrenal insufficiency was also considered. He was 
initially broaded to vancomycin and cefepime and started on 
stress dose steroids. He was continued on levophed and 
vasopressin. On ___ in the AM, had increasing pressor 
requirement MAP and worsening lactate, so a ___ pressor was 
added. A TTE was done to look for signs of cariogenic shock, 
which showed RV dilation, with hyperdynamic LV, though concern 
for cariogenic shock as the major cause of decompensation 
remained low. His daughter and brother were called by palliative 
care to inform them of his worsening clinical status. His 
daughter arrived and was with him at bedside when he lost his 
pulse and who articulated as the alternative HCP in the setting 
of not being able to reach primary HCP that she did not want CPR 
performed. He died with his daughter at bedside and his brother 
arrived soon after. They declined an autopsy.

#Acute hypoxic respiratory failure
#ARDS
Intubated since ___ when presented with oxygen saturation of 
50%. Suspect multifactorial in the setting of volume overload 
from renal failure, pleural effusion, potential new VAP masked 
by effusion on imaging, and development of ARDS. Also could 
consider hemorrhage in the setting of DIC. Despite aggressive 
treatment with CRRT and multiple ventilator modalities, his 
condition progressed and he expired.
 
#Toxic metabolic encephalopathy
#Hx of seizure
Sedation initially weaned on arrival without return of active 
movement or response. Concern for worsening HE in the setting of 
new potential GI bleed and progressive liver failure. Could also 
consider seizure as he has a history of seizure disorder, though 
less likely with proprofol and Keppra. Also contributed to by 
worsening infection. Patient with high residuals so does not 
appear to be absorbing lactulose and not having bowel movements. 
He did not demonstrate signs of seizures and his mental status 
did not recover despite trials without sedation.

#Acute on chronic Liver failure 
#Metastatic HCC 
#Cirrhosis  
#hx of varices
#?GI bleed
Patient has advanced disease with known varices s/p TIPS, 
coagulopathy, pancytopenia, hepatic encephalopathy, and history 
of multifocal metastatic HCC with known metastases. No further 
treatment is available for his care.  He was maintained on 
octreotide and pantoprazole in case of variceal bleeding.

#Coagulopathy
#DIC vs liver failure

Patient presenting with small volume blood loss from rectum, 
foley, and epistaxis, in the setting of fibrinogen of 95 and 
elevated INR despite FFP administration, concerning for DIC. 
Also made worse by liver failure. He was given supportive care 
with cryo, FFP, platelets and PRBC.

#Acute renal failure
Suspect most likely secondary to septic shock and ATN without 
recovery of renal function. Could also be contributed to by 
intrinsic insults with contrast and antibiotic therapy. He was 
continued on CRRT.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ARIPiprazole 10 mg PO DAILY 
2. Lactulose 30 mL PO QID 
3. LevETIRAcetam 1000 mg PO BID 
4. Magnesium Oxide 400 mg PO DAILY 
5. Omeprazole 40 mg PO DAILY 
6. Propranolol 20 mg PO DAILY 
7. Rifaximin 550 mg PO BID 
8. Spironolactone 25 mg PO DAILY 
9. Tiotropium Bromide 1 CAP IH DAILY 
10. Vitamin D ___ UNIT PO 1X/WEEK (MO) 
11. Aspirin 81 mg PO DAILY 
12. Breo Ellipta (fluticasone-vilanterol) 100-25 mcg/dose 
inhalation DAILY 
13. QUEtiapine Fumarate 600 mg PO QHS 
14. TraZODone 200 mg PO QHS 
15. FoLIC Acid 1 mg PO DAILY 
16. Multivitamins W/minerals 1 TAB PO DAILY 

 
Discharge Medications:
N/A
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
N/A
 
Discharge Condition:
N/A
 
Discharge Instructions:
N/A
 
Followup Instructions:
___